US04791107
To a stirred solution under nitrogen of 3.22 g of (3aS-cis)-1,2,3,3a,8,8a-hexahydro-5-methoxy-1-(2-phenylethyl)-3a,8-dimethylpyrrolo[2,3-b]indole in 50 ml of degassed chloroform is added dropwise at 0° C. a solution of 10.1 g of boron tribromide in 50 ml of degassed chloroform. The mixture is stirred for about 3 days at room temperature, cooled to 0° C. and cautiously quenched by the dropwise addition of water. The mixture is stirred vigorously for 0.5 hour, and a sufficient volume of saturated aqueous sodium bicarbonate solution is added to make the system just basic to a pH paper. The organic phase is separated, dried over anhydrous sodium sulfate and concentrated. The residue is Kugelrohr distilled at 0.1 mm Hg at an oven temperature of 160°-200° to provide pure (3aS-cis)-1,2,3,3a,8,8a-hexahydro-1-(2-phenylethyl)-3a,8-dimethylpyrrolo[2,3-b]indol-5-ol.

reactant | (3aS-cis)-1,2,3,3a,8,8a-hexahydro-5-methoxy-1-(2-phenylethyl)-3a,8-dimethylpyrrolo[2,3-b]indole | 3.22 g | COC=1C=C2[C@]3([C@@H](N(C2=CC1)C)N(CC3)CCC3=CC=CC=C3)C | C21H26N2O
reactant | boron tribromide | 10.1 g | B(Br)(Br)Br | BBr3
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | (3aS-cis)-1,2,3,3a,8,8a-hexahydro-1-(2-phenylethyl)-3a,8-dimethylpyrrolo[2,3-b]indol-5-ol | C1(=CC=CC=C1)CCN1CC[C@@]2([C@H]1N(C1=CC=C(C=C21)O)C)C | C20H24N2O
